US07718654B2
Benzyl-(6-methoxy-2-piperazin-1-yl-4-pyrrolidin-1-yl-pteridin-7-yl)-amine:
100 mg (1.76 mmol) sodium methoxide and 300 mg (0.571 mmol) tert.butyl 4-(7-benzylamino-6-chloro-4-pyrrolidin-1-yl-pteridin-2-yl)-piperazine-1- carboxylate are suspended in 5 ml of tetrahydrofuran, then placed in the microwave for 0.1 hours at 120° C. Then the reaction mixture is concentrated by evaporation, the residue is combined with methanol and suction filtered. The mother liquor is concentrated by evaporation, then extracted with water and dichloromethane. The organic phase is dried and evaporated to dryness. The residue is purified by chromatography. Corresponding fractions are concentrated by evaporation and crystallised from diethyl ether.

reactant | sodium methoxide | 1.76 mmol, 100 mg | C[O-].[Na+]
reactant | tert.butyl 4-(7-benzylamino-6-chloro-4-pyrrolidin-1-yl-pteridin-2-yl)-piperazine-1- carboxylate | 0.571 mmol, 300 mg | C(C1=CC=CC=C1)NC1=C(N=C2C(=NC(=NC2=N1)N1CCN(CC1)C(=O)OC(C)(C)C)N1CCCC1)Cl | C26H33ClN8O2
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | Benzyl-(6-methoxy-2-piperazin-1-yl-4-pyrrolidin-1-yl-pteridin-7-yl)-amine | C(C1=CC=CC=C1)NC1=C(N=C2C(=NC(=NC2=N1)N1CCNCC1)N1CCCC1)OC | C22H28N8O
